US09024018B2
3-(Methylsulfinylmethyl)-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-043)
To a 0° C. solution of 3-(methylthiomethyl)-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (0.337 mmol, 115 mg, 1 eq.) in DMF (6 mL) was added potassium peroxymonosulfate (Oxone™) (0.37 mmol, 114 mg, 1.1 eq.) dissolved in water (1.2 mL) drop wise. The formed suspension was stirred at 0° C. and stepwise additions of Oxone™ in water were made until reaction completion. The reaction mixture was filtered and the obtained solid was washed with water, acetonitrile and ether, and dried under vacuum to give the title compound. Yield 90%. δH (DMSO-d6) 9.15 (1H, s), 8.13 (2H, dd, J: 7.96, 2.25), 7.70 (3H, m), 5.67 (1H, d, J: 13.06), 5.52 (1H, d, J: 13.06), 2.81 (3H, s).

reactant | 3-(methylthiomethyl)-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 0.337 mmol, 115 mg, 1 eq. | CSCN1N=NC=2N(C1=O)C=NC2C=2OC(=NN2)C2=CC=CC=C2 | C14H11N7O2S
reactant | potassium peroxymonosulfate | 0.37 mmol, 114 mg, 1.1 eq. | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 1.2 mL | O | H2O
product | 3-(Methylsulfinylmethyl)-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | Yield 90% | CS(=O)CN1N=NC=2N(C1=O)C=NC2C=2OC(=NN2)C2=CC=CC=C2 | C14H11N7O3S
